US05545745
A mixture of (R)-4-benzyl albuterol from Example-3 (6.6 g, 20 mmol) and 10% Pd/C (1.32 g) in 50 mL of ethanol (denatured with 5 vol % 2-propanol) is shaken on a Parr-hydrogenator under 50 psi of hydrogen at room temperature for 2-3 hours. The catalyst is removed by filtration and the filtrate is concentrated to give crude (R)-albuterol (compound IIIa). The crude albuterol (20 mmol) is dissolved in 20 mL of ethanol and treated with anhydrous HCl in ether (1.0M, 19 mL, 0.95 eq) at 0°-5° C. After 30 min at room temperature, 20 mL of methyl t-butyl ether (MTBE) is added to the mixture and the resulting mixture is stirred at room temperature for 30 min and at 0°-5° C. for 2 hours. The white solid (R)-albuterol hydrochloride (compound IIIb) is collected by filtration and recrystallized from 52 mL of ethanol and 26 mL of MTBE to give pure (R)-albuterol hydrochloride as a white powder (4.6 g, 83.5% yield, 99.6% ee, 99.3% purity).

reactant | hydrogen | [H][H] | H2
reactant | albuterol | 20 mmol | CC(C)(C)NCC(C=1C=CC(=C(C1)CO)O)O | C13H21NO3
reactant | HCl | Cl | ClH
reactant | ether | 1.0M, 19 mL, 0.95 eq | CCOCC | C4H10O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 1.32 g | [Pd] | Pd
solvent | methyl t-butyl ether | 20 mL | C(C)(C)(C)OC | C5H12O
product | (R)-albuterol hydrochloride | 83.5% yield | CC(C)(C)NC[C@@H](C1=CC(=C(C=C1)O)CO)O.Cl | InChI=1S/C13H21NO3.ClH/c1-13(2,3)14-7-12(17)9-4-5-11(16)10(6-9)8-15;/h4-6,12,14-17H,7-8H2,1-3H3;1H/t12-;/m0./s1
